US07166609B2
[4-({[6-(4-Fluoro-3-methylbenzylcarbamoyl)pyrimidine-4-carbonyl]amino}-methyl)phenyl]acetic acid
2.4 g (5.2 mmol) of ethyl [4-({[6-(4-fluoro-3-methylbenzylcarbamoyl)pyrimidine-4-carbonyl]amino}methyl)phenyl]acetate were taken up in 150 ml of water, after which 10 ml of water and 0.227 g (5.7 mmol) of NaOH were added. After 5 days of stirring at room temperature, the solvent was removed under reduced pressure and the residue was stirred up with ethanol and filtered off. This resulted in 1.51 g (67%) of [4-({[6-(4-fluoro-3-methylbenzylcarbamoyl)pyrimidine-4-carbonyl]amino}methyl)phenyl]acetic acid. MS (ES+): m/e=436.15.

reactant | ethyl [4-({[6-(4-fluoro-3-methylbenzylcarbamoyl)pyrimidine-4-carbonyl]amino}methyl)phenyl]acetate | 5.2 mmol, 2.4 g | FC1=C(C=C(CNC(=O)C2=CC(=NC=N2)C(=O)NCC2=CC=C(C=C2)CC(=O)OCC)C=C1)C | C25H25FN4O4
reactant | NaOH | 5.7 mmol, 0.227 g | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | [4-({[6-(4-Fluoro-3-methylbenzylcarbamoyl)pyrimidine-4-carbonyl]amino}-methyl)phenyl]acetic acid | FC1=C(C=C(CNC(=O)C2=CC(=NC=N2)C(=O)NCC2=CC=C(C=C2)CC(=O)O)C=C1)C | C23H21FN4O4
